US09315521B2
To a solution of 2-chloro-3-(hydroxymethyl)phenol (400 mg, 2.5 mmol) in anhydrous chloroform (8 mL) was added dropwise a solution of phosphorus tribromide (240 μL, 2.5 mmol) in anhydrous chloroform (2 mL) at 0° C. The mixture was stirred for 2 hours at room temperature. Water was added and extracted 3 times with dichloromethane. The combined organic phase was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, 3-(bromomethyl)-2-chlorophenol was obtained (373 mg, 67% yield) and used for next step without further purification; 1H NMR (400 MHz, DMSO-d6): δ 4.70 (s, 2H), 6.94-6.97 (m, 1H), 7.02-7.04 (m, 1H), 7.13 (t, J=7.8 Hz, 1H), 10.32 (bs, 1H).

reactant | 2-chloro-3-(hydroxymethyl)phenol | 2.5 mmol, 400 mg | ClC1=C(C=CC=C1CO)O | C7H7ClO2
reactant | phosphorus tribromide | 2.5 mmol, 240 μL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(bromomethyl)-2-chlorophenol | 67% yield | BrCC=1C(=C(C=CC1)O)Cl | C7H6BrClO
